US07157577B2
To a suspension of 1.1 g (30 mmol) of lithium aluminum hydride in 10 mL of tetrahydrofuran was added dropwise a solution of 1.8 g (43 mmol) of 6,6-dimethyl-3-(3-morpholin-4-yl-3-oxo-propyl)-1,5,6,7-tetrahydro-indol-4-one in 10 mL of tetrahydrofuran. The mixture was stirred at 80° C. for 2.5 hours and then cooled in an ice bath. Ice cubes were added to the reaction mixture slowly until no more gas was generated. A few drops of 2 N sodium hydroxide were added and the reaction mixture was stirred at room temperature for 30 minutes, extracted with ethyl acetate, and the extract dried over anhydrous sodium sulfate and concentrated to give 1.6 g of 6,6-dimethyl-3-(3-morpholin-4-yl-propyl)-4,5,6,7-tetrahydro-1H-indole as a white solid which was used without further purification. 1H-NMR (360 MHz, dimethylsulfoxide-d6) δ 9.75 (br s, 1H, NH), 6.24 (s, 1H), 3.54 (m, 4H, 2×CH2), 2.23–2.31 (m, 12H, 6×CH2), 1.58 (m, 2H, CH2), 1.40 (m, 2H, CH2), 0.92 (s, 6H, 2×CH3). MS m/z 276 [M+].

reactant | lithium aluminum hydride | 30 mmol, 1.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6,6-dimethyl-3-(3-morpholin-4-yl-3-oxo-propyl)-1,5,6,7-tetrahydro-indol-4-one | 43 mmol, 1.8 g | CC1(CC(C=2C(=CNC2C1)CCC(=O)N1CCOCC1)=O)C | C17H24N2O3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | sodium hydroxide | 2 N, A few drops | [OH-].[Na+]
product | 6,6-dimethyl-3-(3-morpholin-4-yl-propyl)-4,5,6,7-tetrahydro-1H-indole | 1.6 g | CC1(CCC=2C(=CNC2C1)CCCN1CCOCC1)C | C17H28N2O
